US07776910B2
SnCl2.2H2O (1.74 g, 7.726 mmol) was added to a solution of 3-[2-methyl-4-(4-nitro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.69 g, 1.545 mmol) (prepared following the procedure described in Example 3) in isopropanol (20 mL) and the mixture was stirred at 75° C. for 2 hours. The reaction mixture was then cooled to 0° C. and a saturated solution of NaHCO3 was added. The gelatinous material obtained was filtered and the solvent was evaporated under reduced pressure. The crude material was purified via flash chromatography (DCM/MeOH/NH4OH) to give 0.407 g (83% yield) of 4-(3-methyl-4-pyrrolidin-3-yl-benzenesulfonyl)-phenylamine as a white foam: MS (M+H)=317.

reactant | SnCl2.2H2O | 7.726 mmol, 1.74 g | O.O.Cl[Sn]Cl
reactant | 3-[2-methyl-4-(4-nitro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.545 mmol, 0.69 g | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C22H26N2O6S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | 4-(3-methyl-4-pyrrolidin-3-yl-benzenesulfonyl)-phenylamine | 0.407 g, 83% yield | CC=1C=C(C=CC1C1CNCC1)S(=O)(=O)C1=CC=C(C=C1)N | C17H20N2O2S
